US05916889
A mixture of 2-bromopyridine-5-carboxylic acid methyl ester (1.40 g, 6.5 mmol) and piperazine (5.59 g, 65 mmol) was dissolved in acetonitrile (50 ml) and heated at reflux temperature for 2.5 h. The reaction mixture was concentrated in vacuo, dissolved in dichloromethane (50 ml) and extracted with water (3×50 ml). The organic solution was dried (MgSO4) and evaporated in vacuo, affording 0.80 g (56%) of 2-(1-piperazinyl)-5-pyridinecarboxylic acid methyl ester.

reactant | 2-bromopyridine-5-carboxylic acid methyl ester | 6.5 mmol, 1.40 g | COC(=O)C=1C=CC(=NC1)Br | C7H6BrNO2
reactant | piperazine | 65 mmol, 5.59 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(1-piperazinyl)-5-pyridinecarboxylic acid methyl ester | 0.80 g, 56% | COC(=O)C=1C=CC(=NC1)N1CCNCC1 | C11H15N3O2
